US08168673B2
To a solution of 2-(cyclohexylthio)benzaldehyde (3.22 g, 14.6 mmol) in DCM (100 mL) at 0° C. was added mCPBA (70-77% wt in water, 7.17 g, 30.7 mmol) portionwise over 30 minutes, then stirred for 1 hour at 0° C. Additional mCPBA (150 mg, 0.6 mmol) was added and stirred for a further 30 minutes, before aqueous 1N NaOH was added to the reaction mixture and stirred vigorously for 5 minutes. The product was extracted with DCM, and the combined organic phase washed successively with 1N NaOH, then saturated brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford 2-(cyclohexylsulfonyl)benzaldehyde (3.34 g, 13.2 mmol, 91%) as a white solid.

reactant | 2-(cyclohexylthio)benzaldehyde | 14.6 mmol, 3.22 g | C1(CCCCC1)SC1=C(C=O)C=CC=C1 | C13H16OS
reactant | mCPBA | 30.7 mmol, 7.17 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | mCPBA | 0.6 mmol, 150 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 2-(cyclohexylsulfonyl)benzaldehyde | 13.2 mmol, 3.34 g, 91% | C1(CCCCC1)S(=O)(=O)C1=C(C=O)C=CC=C1 | C13H16O3S
